US04698337
7-Amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (1.8 g.) and 2-(2-formamidothiazol-4-yl)-2-(2-chloroethoxyimino)acetic acid (syn isomer, 1.4 g.) were treated in a similar manner to that of Example 24-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-(2-chloroethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.18 g.).

reactant | 7-Amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.8 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
reactant | 2-(2-formamidothiazol-4-yl)-2-(2-chloroethoxyimino)acetic acid | 1.4 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCCl | C8H8ClN3O4S
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2-chloroethoxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.18 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOCCCl | C18H16ClN7O6S4
